US07414063B2
Isoquinoline-5-sulfonic acid {2-[2-(2-bromo-4-fluoro-phenyloxy)-ethylamino]-ethyl}-amide
By following a similar procedure as described in Example 1, DIBAL-H reduction of (2-bromo-4-fluoro-phenoxy)-acetic acid methyl ester, and subsequent reductive amination with isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide gives the free amine of the title compound as a white foam. ESIMS: m/z 468 [(M+H)+, 79Br], 470 [(M+H)+, 81Br].

reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | (2-bromo-4-fluoro-phenoxy)-acetic acid methyl ester | COC(COC1=C(C=C(C=C1)F)Br)=O | C9H8BrFO3
reactant | isoquinoline-5-sulfonic acid (2-amino-ethyl)-amide | NCCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1 | C11H13N3O2S
product | Isoquinoline-5-sulfonic acid {2-[2-(2-bromo-4-fluoro-phenyloxy)-ethylamino]-ethyl}-amide | BrC1=C(C=CC(=C1)F)OCCNCCNS(=O)(=O)C=1C=2C=CN=CC2C=CC1 | C19H19BrFN3O3S
